Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
high grade serous carcinoma of Mullerian origin
 
Major Surgical or Invasive Procedure:
Robot-assisted total laparoscopic hysterectomy, bilateral pelvic 
lymph node dissection, omental biopsy, and cystoscopy

 
History of Present Illness:
MFJ is a ___ yo G4P2 who presented with known genetic
predisposition to ovarian cancer (germline mutation in RAD51)
 
On ___, she underwent laparoscopic bilateral
salpingo-oophorectomy for the purpose of risk reduction.
Intraoperative findings were significant for a 7cm uterus, 
normal
left ovary, and right ovarian fibroma.

Final pathology showed fallopian tube with background flat in
situ lesion with a proliferative focus suggestive of 
intramucosal
serous carcinoma. Contralateral ovary with surface deposit of
serous carcinoma. Peritoneal washings were positive for 
malignant
cells.

In summary, MFJ is diagnosed with high grade serous carcinoma of
mullerian origin. Tumor board recommends completion surgical
staging via total hysterectomy, pelvic and paraaortic lymph node
dissection, omentectomy

 
Past Medical History:
PMH:
- hyperlipdemia
- hypertension
- vertigo
- pre-diabetes
- back pain
- depression
- cold sores
- seasonal allergies
- Denies history of heart disease, asthma, bleeding, clotting
disorders, or immuosupressive disorders. 

PSH: 
- laminectomy (age ___
- laparoscopic tubal ligation

POB: G4P2, SVD x 2, SAB x 1, TAB x 1

PGYN: Menopause at age ___. Last Pap smear ___, result ASCUS, 
neg
HPV. Had prior negative Pap with HPV positive in ___. Denies
history of pelvic infections or fibroids.
 
Social History:
___
Family History:
FHx: Mother (diagnosed at age ___ and maternal aunt (diagnosed 
at
age ___ had ovarian cancer. Denies known family history of 
breast
or endometrial cancer.

 
Physical Exam:
On day of discharge:
T 98.4 PO, BP 132 / 72, HR 85, RR 18. O2 95% RA 
General: NAD, comfortable
CV: RRR
Lungs: minimal bibasilar crackles bilaterally
Abdomen: soft, mildly distended, non-tympanic, no rebound or
guarding, port sites x5 with steri-strips intact, no erythema
GU: pad with no spotting
Extremities: no edema, non-tender to palpation, pboots in place
 
Pertinent Results:
N/A
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology 
service after undergoing Robot-assisted total laparoscopic 
hysterectomy, bilateral pelvic lymph node dissection, omental  
biopsy, and cystoscopy for high grade serous carcinoma of 
Mullerian origin in the setting of known RAD51 mutation. Please 
see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid and 
toradol. Her diet was advanced without difficulty and she was 
transitioned to PO dilaudid/tylenol/ibuprofen on the evening of 
POD#0. On post-operative day #1, her urine output was adequate 
so her foley catheter was removed and she voided spontaneously. 

By late post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
- acyclovir 400mg
- fluoxetine 20mg
- fluticasone
- gabapentin 300 mg qhs
- lisinopril 40mg
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 capsule(s) by mouth two (2) times a 
day Disp #*60 Capsule Refills:*2 
3.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
___ cause sedation. Do not drink or drive while taking. 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*20 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild/Fever NOT relieved 
by Acetaminophen 
Take with food to avoid upset stomach. Do not take more than 
2400mg in 24 hours 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*2 
5.  FLUoxetine 20 mg PO DAILY  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
high grade serous carcinoma of Mullerian origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. ___ have recovered well 
after your operation, and the team feels that ___ are safe to be 
discharged home. Please follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend ___ take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
___ start to feel better and need less medication, ___ should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. ___ were 
prescribed Colace. If ___ continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
___ can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.  
* ___ may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* ___ should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, ___ may remove them.  
* If ___ have staples, they will be removed at your follow-up 
visit.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if ___ are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where ___ are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___